US04476321
A solution of 5.4 g of N-(2-difluoromethoxyphenylsulfonyl)phenylcarbamate and 2.42 g of 2-amino-4-ethyl-6-methoxy-1,3,5-triazine in 60 ml of dioxane is refluxed for 5 hours and then poured into 600 ml of ice-water. The precipitate is taken up in ethyl acetate. The ethyl acetate phase is washed with water, dried and concentrated. The residual oil is dissolved in ethyl acetate and washed 5 times with saturated sodium bicarbonate solution. The combined aqueous phases are acidified with dilute hydrochloric acid and extracted with ethyl acetate. The ethyl acetate phase is dried and evaporated to dryness. Recrystallisation from methanol yields 5.1 g of N-(2-difluoromethoxyphenylsulfonyl)-N'-(4-ethyl-6-methoxy-1,3,5-triazin-2-yl)urea with a melting point of 114°-116° C.

reactant | N-(2-difluoromethoxyphenylsulfonyl)phenylcarbamate | 5.4 g | FC(OC1=C(C=CC=C1)S(=O)(=O)N(C([O-])=O)C1=CC=CC=C1)F
reactant | 2-amino-4-ethyl-6-methoxy-1,3,5-triazine | 2.42 g | NC1=NC(=NC(=N1)CC)OC | C6H10N4O
solvent | dioxane | 60 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(2-difluoromethoxyphenylsulfonyl)-N'-(4-ethyl-6-methoxy-1,3,5-triazin-2-yl)urea | 5.1 g | FC(OC1=C(C=CC=C1)S(=O)(=O)NC(=O)NC1=NC(=NC(=N1)CC)OC)F | C14H15F2N5O5S
